US07081531B2
To a solution of 5-(3,4-dichloro-benzyl)-2-aza-bicyclo[2.2.2]octane-2-carboxylic acid tert-butyl ester (0.24 g, 0.65 mmol) in 2 mL of CH2 Cl2 was added 1 mL of TFA. After the mixture was stirred at rt for 1 h, it was quenched with NaHCO3 (sat.). It was then extracted with CH2Cl2 and the organic layer was washed with NaCl (sat.), dried over Na2SO4 and concentrated to give 170 mg of 5-(3,4-Dichloro-benzyl)-2-aza-bicyclo[2.2.2]octane (M++1: 270).

reactant | 5-(3,4-dichloro-benzyl)-2-aza-bicyclo[2.2.2]octane-2-carboxylic acid tert-butyl ester | 0.65 mmol, 0.24 g | C(C)(C)(C)OC(=O)N1C2CC(C(C1)CC2)CC2=CC(=C(C=C2)Cl)Cl | C19H25Cl2NO2
reactant | Cl2 | ClCl | Cl2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3,4-Dichloro-benzyl)-2-aza-bicyclo[2.2.2]octane | 170 mg | ClC=1C=C(CC2C3CNC(C2)CC3)C=CC1Cl | C14H17Cl2N
